US06222060B1
Synthesis of o-(chloromethyl)benzoic Acid 2-chloroethyl Ester
180 g of o-(chloromethyl)benzoic acid chloride was placed in a double-neck 500 ml flask equipped with a cooler, thermometer and dropping funnel. 50 ml of 2-chloroethanol was added dropwisely, while maintaining the internal temperature of reactor at 40˜50° C. After all amounts of 2-chloroethanol were infused, the reacting solution was stirred for 10 hours, while maintaining the internal temperature of reactor at 40˜50° C. The residue was subjected to fractional distillation under reduced pressure at the reactor equipped with a fractional distiller to afford 165 g of desired compound (yield 94%) as oil.

reactant | o-(chloromethyl)benzoic acid chloride | 180 g | ClCC1=C(C(=O)Cl)C=CC=C1 | C8H6Cl2O
reactant | 2-chloroethanol | 50 ml | ClCCO | C2H5ClO
product | o-(chloromethyl)benzoic Acid 2-chloroethyl Ester | 165 g, yield 94% | ClCCOC(C1=C(C=CC=C1)CCl)=O | C10H10Cl2O2
